US04885298
A cooled solution of 0.28 g 3-ethylidene-6-methyl-thioflavanone and 0.2 g meta-chloroperbenzoic acid in 3 ml methylene chloride is stirred at 0° C. for 5 minutes. After filtration the organic phase is washed with saturated sodium bicarbonate aqueous solution, then with water, dried over magnesium sulfate and evaporated. The crude solid is crystallized in cyclohexane. Pure 3-ethylidene-6-methyl-thioflavanone-1-oxide is obtained as yellow crystals; m.p. 151°-160° C.

reactant | 3-ethylidene-6-methyl-thioflavanone | 0.28 g | C(C)=C1C(OC2=CC=C(C=C2C1=S)C)C1=CC=CC=C1 | C18H16OS
reactant | meta-chloroperbenzoic acid | 0.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-ethylidene-6-methyl-thioflavanone-1-oxide | C(C)=C1C([O+](C2=CC=C(C=C2C1=S)C)[O-])C1=CC=CC=C1 | C18H16O2S
